US09126998B2
rac-3-(2,4-Difluorophenyl)-3-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)propanoic acid
5.0 g of rac-3-amino-3-(2,4-difluorophenyl)propanoic acid (24.85 mmol) and 3.68 g of phthalic anhydride (24.85 mmol) were dissolved in 20 ml of DMF and the mixture was heated at reflux at 135° C. overnight. The reaction solution was added to about 160 ml of water and extracted twice with ethyl acetate. The combined organic phases were washed with water, dried over sodium sulphate, filtered and concentrated. The crude product was purified by silica gel chromatography (mobile phase: dichloromethane/methanol 80:1, isocratic) and then by preparative HPLC (RP18 column, mobile phase: acetonitrile/water gradient with addition of 0.1% TFA). This gave 3.43 g of the title compound (27% of theory).

reactant | rac-3-amino-3-(2,4-difluorophenyl)propanoic acid | 24.85 mmol, 5.0 g | NC(CC(=O)O)C1=C(C=C(C=C1)F)F | C9H9F2NO2
reactant | phthalic anhydride | 24.85 mmol, 3.68 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | water | about 160 ml | O | H2O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | rac-3-(2,4-Difluorophenyl)-3-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)propanoic acid | FC1=C(C=CC(=C1)F)C(CC(=O)O)N1C(C2=CC=CC=C2C1=O)=O | C17H11F2NO4
